US06995171B2
A solution of 2-(7-Chloro-thieno[3,2-b]pyridin-2-yl)-4-methyl-thiazole-5-carbonyl chloride, (0.28 g, 0.85 mmol), dry dichloromethane (1.5 mL), and 1-methylpiperazine (0.21 mL, 1.87 mmol) was stirred at room temperature for four hours. A gas discharge and immediate solution were noted. The reaction mixture was evaporated directly onto silica gel and purified through silica gel chromatography to afford [2-(7-Chloro-thieno[3,2-b]pyridin-2-yl)-4-methyl-thiazol-5-yl]-(4-methyl-piperazin-1-yl)-methanone (0.234 g) in 70% yield. C17H17ClN4OS2: APCI 393.2/395.2 (pos.); 1H NMR (d6-DMSO): δ 8.68 (d, 1H, J=5.4 Hz), 8.32 (s, 1H), 7.64 (d, 1H, J=5.4 Hz), 3.6–3.4 (bm, 4H), 2.38 (s, 3H), 2.4–2.2 (bm, 4H), 2.17 (s, 3H) ppm.

reactant | 2-(7-Chloro-thieno[3,2-b]pyridin-2-yl)-4-methyl-thiazole-5-carbonyl chloride | 0.85 mmol, 0.28 g | ClC1=C2C(=NC=C1)C=C(S2)C=2SC(=C(N2)C)C(=O)Cl | C12H6Cl2N2OS2
reactant | 1-methylpiperazine | 1.87 mmol, 0.21 mL | CN1CCNCC1 | C5H12N2
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | [2-(7-Chloro-thieno[3,2-b]pyridin-2-yl)-4-methyl-thiazol-5-yl]-(4-methyl-piperazin-1-yl)-methanone | 0.234 g, 70% yield | ClC1=C2C(=NC=C1)C=C(S2)C=2SC(=C(N2)C)C(=O)N2CCN(CC2)C | C17H17ClN4OS2
